US07935824B2
Benzyl (1R*,3S*,4S*)-4-azido-3-hydroxycyclohexane-1-carboxylate
Benzyl (1R*,3S*,4R*)-3,4-epoxycyclohexane-1-carboxylate (52.3 g) was dissolved in N,N-dimethyl-formamide (1000 ml), ammonium chloride (21.9 g) and sodium azide (18.1 g) were added, and the mixture was heated to 70° C. and stirred for 24 hours. The solvent was distilled off under reduced pressure, and water was added to conduct extraction with ethyl acetate. The resultant organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain the title compound (61.8 g) as a colorless oil.

reactant | Benzyl (1R*,3S*,4R*)-3,4-epoxycyclohexane-1-carboxylate | 52.3 g | O1[C@H]2C[C@@H](CC[C@H]21)C(=O)OCC2=CC=CC=C2 | C14H16O3
reactant | ammonium chloride | 21.9 g | [Cl-].[NH4+]
reactant | sodium azide | 18.1 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethyl-formamide | 1000 ml | CN(C=O)C | C3H7NO
product | Benzyl (1R*,3S*,4S*)-4-azido-3-hydroxycyclohexane-1-carboxylate | 61.8 g | N(=[N+]=[N-])[C@@H]1[C@H](C[C@@H](CC1)C(=O)OCC1=CC=CC=C1)O | C14H17N3O3
